US06964961B2
A. 7-Chloro-thieno[3,2-b]pyridine-2-carboxylic acid (2-pyridin-3-yl-ethyl)-amide
The title compound was prepared from 2-pyridine-3-yl-ethyl amine and lithium 7-chloro-thieno[3,2-b]pyridine-2-carboxylate by a procedure analogous to Example 1B. MS: 318/320 (MH+); HPLC Rf: 4.27 min.; HPLC purity 76%.

reactant | 2-pyridine-3-yl-ethyl amine | N1=CC(=CC=C1)CCN | C7H10N2
reactant | lithium 7-chloro-thieno[3,2-b]pyridine-2-carboxylate | ClC1=C2C(=NC=C1)C=C(S2)C(=O)[O-].[Li+]
product | 7-Chloro-thieno[3,2-b]pyridine-2-carboxylic acid (2-pyridin-3-yl-ethyl)-amide | N1=CC(=CC=C1)CCNC(=O)C1=CC2=NC=CC(=C2S1)Cl | C15H12ClN3OS
